data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-c1cnccc1_2-C(C)CC_3-c1c(Cl)cc(Cl)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1cnccc1)(=O)(C(C)CC)","C(c1c(Cl)cc(Cl)cc1)(=O)OO"],"products_smiles": ["C(c1cnccc1)(=O)OC(C)CC"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=[OH+])C(C)CC","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)([OH])(OOC(=O)c1c(Cl)cc(Cl)cc1)C(C)CC","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1cnccc1)(=[OH+])OC(C)CC","rationale": "A 1,2-shift occurs from the more migratory C(C)CC group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=O)OC(C)CC","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-241_1-C1CCCCC1_2-c1ccc(F)cc1_3-CC(F)F_4-CC(F)(F)F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["C1CCCCC1C(=O)[H]","c1ccc(F)cc1OC(=O)CP(=O)(OCC(F)F)(OCC(F)(F)F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["C1CCCCC1/C=C\\C(=O)Oc1ccc(F)cc1"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(F)cc1OC(=O)[CH-]P(=O)(OCC(F)F)(OCC(F)(F)F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1OC(=O)C(P(=O)(OCC(F)F)(OCC(F)(F)F))C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1OC(=O)C1C(C1CCCCC1)OP1([O-])(OCC(F)F)(OCC(F)(F)F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1/C=C\\C(=O)Oc1ccc(F)cc1","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
